US05098465
Ethyl 2-(4,6-dimethoxypyrimidin-2-yl)pentanoate
4,2 g (30 mmol) Diisopropylamine in 100 ml tetrahydrofuran, under nitrogen at -78° C., was treated with 19 ml (30 mmol) 1.6M butyllithium in hexane. The mixture was stirred for 30 minutes and then at -60° C., a solution of 3.5 g (27 mmol) ethyl pentanoate, dissolved in 20 ml tetrahydrofuran, was added dropwise. The mixture was stirred for a further hour and 5.9 g (27 mmol) 4,6-dimethoxy-2-methylsulphonylpyrimidine was added, portionwise. The temperature of the mixture rose over 2 hours to +10° C. The reaction mixture was then washed with saturated aqueous ammonium chloride and sodium chloride. The aqueous phase was extracted with ethyl acetate. The organic phases were dried over magnesium sulphate and concentrated. The resulting yellow oil was finally purified on silica gel using a hexane/ethyl acetate mixture (0 to 20% ethyl acetate).

reactant | Diisopropylamine | 30 mmol, 4,2 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 30 mmol, 1.6M, 19 ml | C(CCC)[Li]
reactant | ethyl pentanoate | 27 mmol, 3.5 g | C(CCCC)(=O)OCC | C7H14O2
reactant | 4,6-dimethoxy-2-methylsulphonylpyrimidine | 27 mmol, 5.9 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl 2-(4,6-dimethoxypyrimidin-2-yl)pentanoate | COC1=NC(=NC(=C1)OC)C(C(=O)OCC)CCC | C13H20N2O4
